US07034018B2
[(1-Ethyl-1H-pyrrol-2-yl)-(2-methoxyphenyl)-methyl]-dimethylamine
The preparation was carried out in accordance with general synthesis instructions 4 from 1-ethyl-1H-pyrrole and (2-methoxy-benzylidene)-dimethyl-ammonium chloride.

reactant | 1-ethyl-1H-pyrrole | C(C)N1C=CC=C1 | C6H9N
reactant | (2-methoxy-benzylidene)-dimethyl-ammonium chloride | [Cl-].COC1=C(C=[N+](C)C)C=CC=C1
product | [(1-Ethyl-1H-pyrrol-2-yl)-(2-methoxyphenyl)-methyl]-dimethylamine | C(C)N1C(=CC=C1)C(C1=C(C=CC=C1)OC)N(C)C | C16H22N2O
